Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Leukocytosis, fever, hypotension, and tachycardia.
 
Major Surgical or Invasive Procedure:
___: Flexible bronchoscopy for purpose of decannulation and 
trache (tracheostomy removal)
.
___: Cholangiogram and replacement of internal-external 
biliary drain.
.
___: Removal of jejunostomy tube.

 
History of Present Illness:
___ year old male known to the surgical service, initially 
presented after undergoing ERCP ___ for an ampullary polyp and 
subsequently developed necrotizing pancreatitis as well as 
cholecystitis, cholangitis, and ARDS.  He underwent perc chole 
tube placement, Trach, and J-tube.  He was transfered to the 
___ for further care.  Ultimately he recovered, and his perc 
chole was changed over to an internal-external drain.  He also 
developed SMV and splenic vein thrombosis leading to 
anticoagulation.  He was discharged to rehab.  He now presents 
from an OSH.  He had a fever at home to 103 and was seen at OSH 
where he had a leukocytosis, fever, and was hypotensive and 
tachycardiac.  He was transfered here for further management. He 
currently has no complaints.  No abdominal pain, no N/V/D.  Says 
he has been tolerating a regular diet.  His I/E drain has been 
capped since he left the hospital.  
 
Past Medical History:
PMHx: HTN, Type II DM, nephrolithiasis, ampullary polyp, and 
depression.
.
PSHx: Open tracheostomy, J-tube placement, chole tube placement
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On Admission:
VS: Tm 103 (at OSH) Tc 97.5  HR 113 (now ___ BP 87/55 (now 
___ RR 18 O2sats 97%RA
.
Gen: NAD, AAOx3
HEENT: Anicteric
CV: tachycardiac
Pulm: CTA b/l
Abd: soft, NT, ND. Jtube capped, I/E drain RUQ capped 
(semi-purulent material upon aspiration)
Ext: no edema or cyanosis, palp pulses.
.
At Discharge:
AVSS/afebrile.
GEN: Well ___ NAD.
HEENT: Sclerae anicteric. O-P clear.
NECK: Supple. Anterior tracheostomy site now decannulated with 
DSD cover.
LUNGS: CTA(B)
COR: RRR
ABD: PTC drain capped; insertion site patent. Prior J-tube (now 
discontinued) clean, slowly healing over with DSD cover. BSX4. 
Soft/NT/ND.
EXTREM: No c/c/e
NEURO: Deconditioned, otherwise non-focal.

 
Pertinent Results:
On Admission:

___ 03:23PM   GLUCOSE-120* UREA N-14 CREAT-0.6 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-111* TOTAL CO2-22 ANION GAP-10
___ 03:23PM   CALCIUM-8.1* PHOSPHATE-2.6* MAGNESIUM-1.8
___ 03:23PM   WBC-20.1* RBC-3.08* HGB-9.3* HCT-28.9* MCV-94 
MCH-30.2 MCHC-32.2 RDW-16.3*
___ 03:23PM   PLT COUNT-344
___ 03:23PM   ___ PTT-40.1* ___
___ 08:32AM   LACTATE-1.3
___ 07:53AM   GLUCOSE-135* UREA N-17 CREAT-0.7 SODIUM-137 
POTASSIUM-3.7 CHLORIDE-108 TOTAL CO2-21* ANION GAP-12
___ 07:53AM   ALT(SGPT)-34 AST(SGOT)-35 ALK PHOS-767* TOT 
BILI-0.6
___:53AM   CALCIUM-7.7* PHOSPHATE-3.1 MAGNESIUM-1.7
___ 07:53AM   WBC-28.7* RBC-3.27* HGB-9.8* HCT-30.6* MCV-93 
MCH-30.0 MCHC-32.1 RDW-16.0*
___ 07:53AM   PLT COUNT-398
___ 04:51AM   COMMENTS-GREEN TOP
___ 03:14AM   LACTATE-1.8
___ 03:14AM   HGB-10.4* calcHCT-31 O2 SAT-77
___ 12:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-SM UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:20AM URINE  ___ BACTERIA-MOD YEAST-NONE 
EPI-0
___ 12:20AM URINE  ___ 12:08AM   LACTATE-3.3*
___ 11:55PM   ___ PTT-38.7* ___
___ 11:55PM   PLT SMR-HIGH PLT COUNT-472*
___ 11:55PM   NEUTS-91* BANDS-4 LYMPHS-2* MONOS-2 EOS-1 
BASOS-0 ___ MYELOS-0
___ 11:55PM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL
___ 11:55PM   WBC-35.8*# RBC-3.38* HGB-10.2* HCT-32.3* 
MCV-96 MCH-30.1 MCHC-31.5 RDW-16.0*
___ 11:55PM   LIPASE-53
.
IMAGING:
___ ABD/PELVIC CT W/CONTRAST:
1. Necrotizing pancreatitis with minimal residual pancreatic 
tissue, similar to the prior study.   
2. Peripancreatic collections have decreased ___ size. There are 
no new collections. Stable position to an internal-external 
drain. The presence of air ___ these collections suggests 
communication between the CBD, containing the stent, and the 
pseudocyts.   
3. Mild intrahepatic biliary ductal dilation, improved.  
4. Slight increased simple fluid within the pelvis, without 
drainable fluid collections.  
5. Stable small left effusion with atelectasis.   
6. Stable hyperdense left renal cyst. 
.
___ AP CXR:
Probable atelectasis and small effusion at the left base, 
decreased since the previous examination. No acute findings. 
.
___ ECG:
Sinus tachycardia. There is a late transition which is probably 
normal.  No previous tracing available for comparison.
   Intervals Axes: 
Rate PR QRS QT/QTc P QRS T 
114 164 70 348/442 68 34 35 
.
___ ECG:
Artifact is present. Sinus tachycardia. Normal tracing. Compared 
to the previous tracing late transition is no longer present. 
  Intervals Axes: 
Rate PR QRS QT/QTc P QRS T 
107 164 78 352/434 62 0 28
.
MICROBIOLOGY:
___ 2:25 am BILE

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS, CHAINS, AND 
CLUSTERS. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   FLUID CULTURE (Preliminary): 
      Due to mixed bacterial types (>=3) an abbreviated workup 
is
      performed; P.aeruginosa, S.aureus and beta strep. are 
reported if
      present. Susceptibility will be performed on P.aeruginosa 
and
      S.aureus if sparse growth or greater.. 
      ___. ___ ___ REQUESTED FURTHER WORK-UP ___. 
      ENTEROCOCCUS SP..    HEAVY GROWTH. 
      STAPH AUREUS COAG +.    SPARSE GROWTH OF TWO COLONIAL 
MORPHOLOGIES. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH. 
      ENTEROCOCCUS SP..    MODERATE GROWTH.  SECOND MORPHOLOGY. 
      ___ ALBICANS, PRESUMPTIVE IDENTIFICATION.    RARE 
GROWTH. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___: 
      CLOSTRIDIUM PERFRINGENS.    SPARSE GROWTH. 
.
___ 8:30 am MRSA SCREEN (Source: Nasal swab): POSITIVE FOR 
METHICILLIN RESISTANT STAPH AUREUS.
.
___ Blood Cx: No growth - FINAL.
___ Blood Cx: No growth - FINAL.
.
___ CLOSTRIDIUM DIFFICILE TOXIN A & B TEST: Negative.
___ CLOSTRIDIUM DIFFICILE TOXIN A & B TEST: Negative.
 
Brief Hospital Course:
The patient was transferredd from an Outside Hospital (OSH) and 
admitted to the General Surgical Service on ___ for 
evaluation of fever, leukocytosis, hypotension, and confusion. 
Initially, he was admited to the SICU and made NPO except 
medications, started on IV fluids and empiric IV Vancomycin and 
Zosyn, a foley catheter was placed, and he was placed on 
continuous bland aerosol mask 35 % trach collar. The PTC drain, 
which had been capped, was opened to gravity drainage. The 
longstanding J-Tube remained clamped. The patient was 
hemodynamically stable.
.
The patient was started on a regular diet on ___, which he 
tolerated. He was transferred to the inpatient floor later on 
___ continued on IV antibiotics, home medications, a 
Passy-Muir valve was replaced, the PTC remained to gravity 
drainage, and the J-Tube clamped. He no longer required IV 
fluids. The foley was ___ place. Bile culture wa returned with 
MRSA. 
.
On ___, the patient underwent cholangiogram, during which 
the external-internal biliary drain was replaced. Also, on 
___, the patient underwent flexible bronchoscopy for purpose 
of decannulation and tracheostomy removal by Thoracic Surgery, 
which went well (see Operative Note). ___, the 
patient received IV pain medications, but only required 
acetaminophen otherwise during the admission for discomfort.
.
Over the next two days after the above procedures, the patient's 
foley catheter was discontinued and the J-Tube was removed, as 
it had not been used ___ over one month. The patient subsequently 
voided without problem. The PTC was capped on ___, which the 
patient tolerated without fever, abdominal pain, nausea, 
vomiting, or appetite changes overnight. IV Vancomycin and Zosyn 
were discontinued, and changed to Bactrim and Ciprofloxacin. He 
was discharged on a two week course of both. Home Coumadin 
dosing was also restarted on ___. INR ___ AM was 1.3. 
INR goal 2.5 with therapeutic range of ___. Patient's PCP 
contacted and has kindly agreed to manage Coumadin once 
discharged.
.
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirrometry, and actively participated ___ the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay. Labwork was routinely followed; 
electrolytes were repleted when indicated. Once recovered, he 
was returned to the floor with previous orders re-initiated. 
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and was not 
experiencing any pain.  He was discharged home with ___ 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
11. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours)
12. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily)
13. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1)  Inhalation every six (6) hours as needed for shortness 
of breath or wheezing
14. Lactobacillus Acidophilus Tablet Sig: One (1) Tablet PO 
once a day
15. Labetalol 100 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day)
16. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 

Q6H (every 6 hours) as needed for SOB
17. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours)
18. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
19. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily)
21. Multivitamins Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day
22. Vitamin D 50,000 unit Capsule Sig: One (1) Capsule PO Every 
___
24. Seroquel 25 mg Tablet Sig: One (1) Tablet PO every ___ hours 

as needed for Agitation
25. Humalog 100 unit/mL Solution Sig: One (1) From ___ Units  
Subcutaneous four times a day: As directed per sliding scale
26. Oyster Shell Calcium 500 mg (1,250 mg) Tablet Sig: One (1) 
Tablet PO twice a day
 
Discharge Medications:
1. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
2. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Labetalol 200 mg Tablet Sig: One (1) Tablet PO twice a day.  
4. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for anxiety/agitation .  
5. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever or pain.  
6. Zoloft 50 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q4H (every 4 hours) as 
needed for shortness of breath or wheezing.  
8. Ipratropium Bromide 0.02 % Solution Sig: One (1) neb 
Inhalation Q6H (every 6 hours) as needed for shortness of breath 
or wheezing.  
9. Lactobacillus Acidophilus 500 million cell Tablet Sig: One 
(1) Tablet PO once a day.  
10. Vitamin D 50,000 unit Capsule Sig: One (1) Capsule PO once a 
week.  
11. Oyster Shell Calcium 500 500 mg (1,250 mg) Tablet Sig: One 
(1) Tablet PO twice a day.  
12. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for constipation.  
13. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
14. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
15. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
16. Coumadin 1 mg Tablet Sig: One (1) Tablet PO ___, 
___ AND 2 tablets orally Q ___, 
___, and ___.: Please take same time ___ the evening.  
17. Lantus 100 unit/mL Solution Sig: Fifteen (15) units 
Subcutaneous at bedtime.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Tracheostomy for previous chronic respiratory failure post 
adult respiratory distress syndrome.
2. Necrotizing pancreatitis
3. MRSA
4. SMV and splenic vein thrombosis on Coumadin prophylaxis
5. Cholangitis

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.

Avoid driving or operating heavy machinery while taking pain 
medications.

Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
General Drain Care:

*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever). ___ your MD if you 
expereimnce these symptoms, or if you experience fever, 
abdominal pain, nausea, vomiting, abdominal distension, or 
prurlent drainage.
*Wash the area gently with warm, soapy water or ___ strength 
hydrogen peroxide followed by saline rinse, pat dry, and place a 
drain sponge. Change daily and as needed.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself ___ 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
.
Coumadin (Warfarin):

What is this medicine used for?
This medicine is used to thin the blood so that clots will not 
form.

How does it work?
Warfarin changes the body's clotting system. It thins the blood 
to prevent clots from forming.

What you should contact your healthcare provider ___:
Signs of a life-threatening reaction. These include wheezing; 
chest tightness; fever; itching; bad cough; blue skin color; 
fits; or swelling of face, lips, tongue, or throat, severe 
dizziness or passing out, falls or accidents, especially if you 
hit your head. Talk with healthcare provider even if you feel 
fine, significant change ___ thinking clearly and logically, 
severe headache, severe back pain, severe belly pain, black, 
tarry, or bloody stools, blood ___ the urine, nosebleeds, 
coughing up blood, vomiting blood, unusual bruising or bleeding, 
severe menstrual bleedin, or rash.

___ your doctor if you are unable to eat for several days, for 
whatever reason. Also ___ if you have stomach problems, 
vomiting, or diarrhea that lasts more than 1 day. These problems 
could affect your ___ dosage.

Coumadin (Warfarin) and diet:
Certain foods and beverages can impair the effect of warfarin. 
For this reason, it's important to pay attention to what you eat 
while taking this medication. 

Until recently, doctors advised ___ taking warfarin to avoid 
foods high ___ vitamin K. This is because large amounts of 
vitamin K can counteract the benefits of warfarin. However, 
recent research shows that rather than eliminating vitamin K 
from your diet, it is more important to be consistent ___ your 
dietary vitamin K intake.
 
These foods contain vitamin K:
Fruits and vegetables, such as: Kiwi, Blueberries, Broccoli, 
Cabbage, ___ sprouts, Green onions, Asparagus, Cauliflower, 
Peas, Lettuce, Spinach, Turnip, ___, and mustard greens, 
Parsley, Kale, Endive. Meats, such as: Beef liver, Pork liver. 
Other: ___, Margarine, Canola oil, Soybean oil, Vitamins, 
Soybeans and Cashews.

Limit alcohol. Alcohol can affect your ___ dosage 
but it does not mean you must avoid all alcohol. Serious 
problems can occur with alcohol and ___ when you 
drink more than 2 drinks a day or when you change your usual 
pattern. Binge drinking is not good for you. Be careful on 
special occasions or holidays, and drink only what you usually 
would on any regular day of the week.

Monitoring:
The doctor decides how much ___ you need by 
testing your blood. The test measures how fast your blood is 
clotting and lets the doctor know if your dosage should change. 
If your blood test is too high, you might be at risk for 
bleeding problems. If it is too low, you might be at risk for 
forming clots. Your doctor has decided on a range on the blood 
test that is right for you. The blood test used for monitoring 
is called an INR.

Use of Other medications: 
When ___ is taken with other medicines it can 
change the way other medicines work. Other medicines can also 
change the way ___ works. It is very important to 
talk with your doctor about all of the other medicines that you 
are taking, including over-the-counter medicines, antibiotics, 
vitamins, or herbal products.
 
Followup Instructions:
___